US05089504
A. Preparation of ethyl 2-isobutyryl-3 -ethoxyacrylate
A mixture of ethyl isobutyrylacrylate (60.5 g, 0.38 mol) triethyl orthoformate (126 ml, 0.76 mol) and acetic anhydride (36 ml, 0.38 mol) was heated at reflux for 24 hours, then the volatile components removed in vacuo, finally at 100°/0.5 mm. The residue consisted mainly of ethyl 2-isobutyryl-3-ethoxyacrylate as a mixture of E/Z isomers, and was used without further purification.

reactant | ethyl isobutyrylacrylate | 0.38 mol, 126 ml, 60.5 g | C(C(C)C)(=O)C(C(=O)OCC)=C | C9H14O3
reactant | acetic anhydride | 0.38 mol, 36 ml | C(C)(=O)OC(C)=O | C4H6O3
product | ethyl 2-isobutyryl-3 -ethoxyacrylate | C(C(C)C)(=O)C(C(=O)OCC)=COCC | C11H18O4
